US05554607
3-(Indan-5-yl)-1-methyl-2-thioxo-imidazolidin-4-one
The title compound was prepared by the procedure described in Example 1 using 7.7 g of indan-5-yl-isothiocyanate, 6.7 g of sarcosine ethyl ester hydrochloride, 12 g of triethyl amine, and 300 mL of chloroform. Crystallization from ethyl acetate afforded the title compound (7.9 g) as a tan solid, m.p. 158-160° C. Anal. Calcd. for C13H14N2O S: C, 63.39; H, 5.73; N,11.37. Found: C, 63.30; H, 5.81; N, 11.31. Mass spectrum (EI, M.+) m/z 246.

reactant | indan-5-yl-isothiocyanate | 7.7 g | C1CCC2=CC(=CC=C12)N=C=S | C10H9NS
reactant | sarcosine ethyl ester hydrochloride | 6.7 g | Cl.C(C)OC(CNC)=O
reactant | triethyl amine | 12 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(Indan-5-yl)-1-methyl-2-thioxo-imidazolidin-4-one | 7.9 g | C1CCC2=CC(=CC=C12)N1C(N(CC1=O)C)=S | C13H14N2OS
